datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C=CC(C)(CC)[N:10](C)C(C)C.O=C(C(O)c1ccccc1[N+](=O)[O-])[O:21][H:20]>>C=CC(C)(CC)[N+:10](C)(C(C)C)[H:20].O=C(C(O)c1ccccc1[N+](=O)[O-])[O-:21] 10=20;20,21=21",
"CCCCCC[NH:10]CCC(=O)[O-].O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CCCCCC[NH+:10](CCC(=O)[O-])[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC(C)[C@H]1CC[C@H](C)C[C@@H]1[NH2:10].c1ccc(CCCC[NH2+:21][H:20])nc1>>CC(C)[C@H]1CC[C@H](C)C[C@@H]1[NH2+:10][H:20].c1ccc(CCCC[NH2:21])nc1 10=20;20,21=21",
"N#CCC[NH+:21](CCC#N)[H:20].c1ccc(-c2nnn[n-:10]2)cc1>>N#CCC[NH:21]CCC#N.c1ccc(-c2nnn[n:10]2[H:20])cc1 10=20;20,21=21",
"O=C(Cc1ccc(Cl)s1)[O:21][H:20].O=C([O-])[C@H](NCC[NH:10][C@@H](C(=O)[O-])c1ccccc1[O-])c1ccccc1[O-]>>O=C(Cc1ccc(Cl)s1)[O-:21].O=C([O-])[C@H](NCC[NH+:10]([C@@H](C(=O)[O-])c1ccccc1[O-])[H:20])c1ccccc1[O-] 10=20;20,21=21",
"CN/C(N(C)C)=[N:10]\C.c1ncc2[nH]c[n+:21]([H:20])c2n1>>CN/C(N(C)C)=[N+:10](\C)[H:20].c1ncc2[nH]c[n:21]c2n1 10=20;20,21=21",
"CC[C@]1(O)C[C@@H](C)[NH:10][C@@H]2CCCC[C@H]21.[O-][n+]1cnc2ncn(Cc3ccccc3)c2c1[NH:21][H:20]>>CC[C@]1(O)C[C@@H](C)[NH+:10]([H:20])[C@@H]2CCCC[C@H]21.[O-][n+]1cnc2ncn(Cc3ccccc3)c2c1[NH-:21] 10=20;20,21=21",
"ClC(Cl)=CCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>ClC(Cl)=CCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C[n+]1c2ccccc2nc2c([O-:10])cccc21.NCC(=O)NC(CCC(N)=O)C(=O)[O:21][H:20]>>C[n+]1c2ccccc2nc2c([O:10][H:20])cccc21.NCC(=O)NC(CCC(N)=O)C(=O)[O-:21] 10=20;20,21=21",
"c1ccc(-c2ccnc3c2cc(-c2ccccc2)c2ccc[n:10]c23)cc1.c1ccc([I+]c2ccc([NH2+:21][H:20])cc2)cc1>>c1ccc(-c2ccnc3c2cc(-c2ccccc2)c2ccc[n+:10]([H:20])c23)cc1.c1ccc([I+]c2ccc([NH2:21])cc2)cc1 10=20;20,21=21",
"CC(C)[NH:10]C[Si](C)(C)C.C[N+:21](C)(CCC(c1ccccc1)c1ccccc1)[H:20]>>CC(C)[NH+:10](C[Si](C)(C)C)[H:20].C[N:21](C)CCC(c1ccccc1)c1ccccc1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.O=P([O-])([O-])C(c1ccccc1[O-])[NH:10]Cc1ccncc1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.O=P([O-])([O-])C(c1ccccc1[O-])[NH+:10](Cc1ccncc1)[H:20] 10=20;20,21=21",
"COCC[S+:21](C(C)O)[H:20].COc1cccc([NH:10]CCS)c1>>COCC[S:21]C(C)O.COc1cccc([NH+:10](CCS)[H:20])c1 10=20;20,21=21",
"Clc1ccnc(-c2cccc[n+:21]2[H:20])c1.O=C(COc1ccccc1[N+](=O)[O-])[O-:10]>>Clc1ccnc(-c2cccc[n:21]2)c1.O=C(COc1ccccc1[N+](=O)[O-])[O:10][H:20] 10=20;20,21=21",
"Cc1cc(S(=O)(=O)N(CCO)CCO)cc(C)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(S(=O)(=O)N(CCO)CCO)cc(C)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCC(O)C[N+:21](CC)(CC(O)CC)[H:20].[NH3+]CCc1c[n:10]c[nH]1>>CCC(O)C[N:21](CC)CC(O)CC.[NH3+]CCc1c[n+:10]([H:20])c[nH]1 10=20;20,21=21",
"NC(=O)CCC(C(=O)O)[NH-:10].O=C(CCC1CCCCC1)[O:21][H:20]>>NC(=O)CCC(C(=O)O)[NH:10][H:20].O=C(CCC1CCCCC1)[O-:21] 10=20;20,21=21",
"C1CCC([NH2:10])CC1.OCCCc1cccc[n+:21]1[H:20]>>C1CCC([NH2+:10][H:20])CC1.OCCCc1cccc[n:21]1 10=20;20,21=21",
"C=CC(C)[NH+:21](c1ccccc1)[H:20].O=C1CC(Sc2ccccc2)[N-:10]1>>C=CC(C)[NH:21]c1ccccc1.O=C1CC(Sc2ccccc2)[N:10]1[H:20] 10=20;20,21=21",
"C1CC2CCNC2=[N:10]C1.O=P([O-])(c1cn2c([nH+]1)[C@@H](O)[C@H](O)[C@@H](O)[C@@H]2CO)[O:21][H:20]>>C1CC2CCNC2=[N+:10]([H:20])C1.O=P([O-])(c1cn2c([nH+]1)[C@@H](O)[C@H](O)[C@@H](O)[C@@H]2CO)[O-:21] 10=20;20,21=21",
"C1CCC(=[NH+:21][H:20])CC1.C=CCC1(C2C=CCCC2)C(=O)NC(=S)[N-:10]C1=O>>C1CCC(=[NH:21])CC1.C=CCC1(C2C=CCCC2)C(=O)NC(=S)[N:10]([H:20])C1=O 10=20;20,21=21",
"COc1ccc(OC)c2c1n(C)c(CO)[n+:21]2[H:20].Cc1cc[nH+]c([O-])[n:10]1>>COc1ccc(OC)c2c1n(C)c(CO)[n:21]2.Cc1cc[nH+]c([O-])[n+:10]1[H:20] 10=20;20,21=21",
"Clc1ccc([O:21][H:20])c(CN2CCOCC2)c1.[NH3+]CC[NH:10]CC[NH3+]>>Clc1ccc([O-:21])c(CN2CCOCC2)c1.[NH3+]CC[NH+:10](CC[NH3+])[H:20] 10=20;20,21=21",
"CC(C)[NH:10]CCc1ccc([O-])cc1.Cc1cc(C)[n+:21]([H:20])nc1C>>CC(C)[NH+:10](CCc1ccc([O-])cc1)[H:20].Cc1cc(C)[n:21]nc1C 10=20;20,21=21",
"Fc1ccc([O-:10])c(C[NH+]2CCCCC2)c1.NC(=O)C#CC#C/C=C/C(=O)[O:21][H:20]>>Fc1ccc([O:10][H:20])c(C[NH+]2CCCCC2)c1.NC(=O)C#CC#C/C=C/C(=O)[O-:21] 10=20;20,21=21",
"CC(CC#N)[NH2+:21][H:20].Nc1c2[nH]cnc2[n:10]c[n+]1[O-]>>CC(CC#N)[NH2:21].Nc1c2[nH]cnc2[n+:10]([H:20])c[n+]1[O-] 10=20;20,21=21",
"CC1=C(O)C(=[O:10])N(c2ccccc2)N1C.Cc1nn(C)c2c1C(c1ccccc1F)=[N+:21]([H:20])CC(=O)N2C>>CC1=C(O)C(=[O+:10][H:20])N(c2ccccc2)N1C.Cc1nn(C)c2c1C(c1ccccc1F)=[N:21]CC(=O)N2C 10=20;20,21=21",
"CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.C[NH:10]CCN>>CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.C[NH+:10](CCN)[H:20] 10=20;20,21=21",
"NC(CC/C(N)=[N:10]\O)=NO.O=C(c1ccccc1)N1CC(=O)[N:21]([H:20])C1=S>>NC(CC/C(N)=[N+:10](\O)[H:20])=NO.O=C(c1ccccc1)N1CC(=O)[N-:21]C1=S 10=20;20,21=21",
"C[C@@H]1CNC[C@H](C)[NH:10]1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[C@@H]1CNC[C@H](C)[NH+:10]1[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[C@H](O)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@H]([NH2+:21][H:20])CC[C@]4(C)[C@H]3CC[C@]12C.OCc1ccc[n:10]c1>>C[C@H](O)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@H]([NH2:21])CC[C@]4(C)[C@H]3CC[C@]12C.OCc1ccc[n+:10]([H:20])c1 10=20;20,21=21",
